US07405236B2
c] {7-[5-(4-Trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester
A suspension of (7-hydroxy-indol-1-yl)-acetic acid ethyl ester (50 mg, 0.23 mmol), methanesulfonic acid 5-(4-trifluoromethoxy-phenyl)-pent-4-ynyl ester (74 mg, 0.23 mmol; example 9 a]), cesium carbonate (82 mg, 0.25 mmol) and a trace of potassium iodide in acetonitrile (2.5 ml) was stirred for 14 h at ambient temperature and for 4 h at 50° C. The reaction mixture was poured onto 1 N HCl/ice water 1/1 and extracted two times with ethyl acetate. The combined extracts were washed with brine, dried over sodium sulfate and the solvent was removed under reduced pressure. The residue was purified by flash chromatography (silica gel, heptane/AcOEt) to give 16 mg (0.04 mmol, 16%) of the title compound as colorless oil.

reactant | (7-hydroxy-indol-1-yl)-acetic acid ethyl ester | 0.23 mmol, 50 mg | C(C)OC(CN1C=CC2=CC=CC(=C12)O)=O | C12H13NO3
reactant | methanesulfonic acid 5-(4-trifluoromethoxy-phenyl)-pent-4-ynyl ester | FC(OC1=CC=C(C=C1)C#CCCCOS(=O)(=O)C)(F)F | C13H13F3O4S
reactant | cesium carbonate | 0.25 mmol, 82 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
product | {7-[5-(4-Trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester | 0.04 mmol, 16 mg, 16% | C(C)OC(CN1C=CC2=CC=CC(=C12)OCCCC#CC1=CC=C(C=C1)OC(F)(F)F)=O | C24H22F3NO4
